US04590188
A mixture of 1 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 10 ml of acetic anhydride is treated in the same manner as described in Example 54. The crude product is converted to its hydrochloride and recrystallized from a mixture of isopropanol and ether. 0.729 g of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride is obtained.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2F | C20H23FN2O3S
reactant | hydrochloride | Cl | ClH
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 0.729 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C)C=CC=C2F | InChI=1S/C22H25FN2O4S.ClH/c1-14(26)29-19-20(15-8-10-16(28-4)11-9-15)30-21-17(23)6-5-7-18(21)25(22(19)27)13-12-24(2)3;/h5-11,19-20H,12-13H2,1-4H3;1H/t19-,20+;/m1./s1
